US08372837B2
To a stirring solution of 6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)-5-(piperidin-4-yloxy)pyridazin-3(2H)-one HCl (18.97 mg, 0.05 mmol) in NMP (2 mL) at room temperature under argon was added DIPEA (19.4 mg, 0.150 mmol) and 5-chloro-2-iodopyrimidine (24 mg, 0.1.0 mmol). The resulting reaction mixture was heated at 100° C. under argon overnight. 15 mL of EtOAc was added to the reaction mixture. The reaction mixture was washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was dissolved in a small amount of DCM (˜2 ml) and loaded onto a 24 g ISCO silica gel column which was eluted with a 20 min gradient from 20% to 100% EtOAc/Hexanes. 16 mg (62%) of 5-(1-(5-chloropyrimidin-2-yl)piperidin-4-yloxy)-6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)pyridazin-3(2H)-one was obtained as a tan solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.73-1.95 (m, 2H) 1.98-2.22 (m, 2H) 2.58 (s, 1H) 2.96-3.16 (m, 3H) 3.61-3.83 (m, 2H) 3.96-4.17 (m, 2H) 4.48-4.82 (m, 3H) 6.30 (s, 1H) 7.88 (d, J=8.79 Hz, 2H) 8.04 (d, J=8.35 Hz, 2H) 8.24 (s, 2H). MS (ESI) 492 (M+H).

reactant | 6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)-5-(piperidin-4-yloxy)pyridazin-3(2H)-one HCl | 0.05 mmol, 18.97 mg | Cl.OCC=1C(=CC(N(N1)C1=CC=C(C=C1)S(=O)(=O)C)=O)OC1CCNCC1
reactant | DIPEA | 0.150 mmol, 19.4 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-2-iodopyrimidine | 24 mg | ClC=1C=NC(=NC1)I | C4H2ClIN2
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 5-(1-(5-chloropyrimidin-2-yl)piperidin-4-yloxy)-6-(hydroxymethyl)-2-(4-(methylsulfonyl)phenyl)pyridazin-3(2H)-one | 16 mg, 62% | ClC=1C=NC(=NC1)N1CCC(CC1)OC1=CC(N(N=C1CO)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H22ClN5O5S
